data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,221,"C1=CC=[N:1]C=C1.CCN(CC)C1=CC2=C(C=C1)C=C(C(=O)C1=CC=C(N3CC[N+:2](S(=O)([O-])(Cl)C4=CC=C(C)C=C4)([H:3])CC3)C=C1)O2|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1783,"C=CC(Cl)=[O:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1073,"C=CC(O)(Cl)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2039,"CC(=O)C1=C[CH+:1][C:2](Br)([H:3])O1.[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,8489,"C1=CC=CC=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.N#CC(C[C:1](C1=CC=CC=C1)=[OH+:2])C(C1=CC=CC=C1)=[O:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,400,"CCC#[C:1][H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,1927,"CC(=O)[O-].CC[NH+](CC)CC.COC1=C(O)C=C([CH:1]=[O:2])C=C1.COC1=CC([CH:3]=[C:4](OC(C)=O)[O-:5])=CC(OC)=C1OC|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2077,"CC(C)(C)OC(=O)N1C([CH:1]=[O:2])COC1(C)C.CCCC[N+](CCCC)(CCCC)CCCC.C[Si-:3](C)(C)(F)[C:4]1=NC=CS1|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2369,"BrCCC=[O+:1][H:2].[Br-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4844,"C[C:1](=[C:2](C1=CC=CC=C1)[C:3](C)(CC1=CC=CC=C1)[OH:4])[O-:5]|(5, 1);((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2603,"COC1=CC=C([N:1](C)C2CC3=C(CC2O)C(OC)=CC=C3OC)C=C1.O=C([O-])O.O=C([O-])[O-].[CH3:2][I:3].[I-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,335,"CO[C:1]1=[CH:2][CH:3]=[CH:4]C([N+](=O)[O-])=C1.C[C+:5]=O|((1, 2), 3);((3, 4), 5)"
train,pmechdb_split_0,0,5726,"CCOC(CCCC(O)C1=CC=CC=C1)=[O:1].O=C(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7846,"CCCC=[O:1].[BH3:2]|(1, 2)"
train,pmechdb_split_0,0,5876,"C=CCC.COC(=O)[CH:1]([N-:2]C(=O)OCC1=CC=CC=C1)[Cl:3].[Mg+][Br]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2717,"CCC[CH2:1][Li:2].CCC[CH2][Sn:3]([CH2]CCC)([CH2]CCC)[CH](OCC)OCC|((2, 1), 3)"
train,pmechdb_split_0,0,4658,"C1=CC=[N+](C2=[N:1]C3=C(C=CC=C3)N2)C(C[S:2][OH2+:3])=C1.CC(=O)[O-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2601,"COC[O:1]C.NC(CC1=CC=C(O)C=C1)C(=O)O.NCCC1=CC=CC=C1.[Cl-].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4444,"CO.COC1=C2OC3C(=[O:1])CCC4C5CC(=C2C34CC[NH+]5C)C=C1.COC=[O+]C.O=C(O)C1=C(O)C=CC(S(=O)(=O)[O:2][H:3])=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4933,"CC=C[CH+:1]CC.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,5982,"CC(=O)OC1=C(C(CC(=O)O[C:1](C)=[O:2])[O-:3])C(O)=CC2=C1C1CC3CCC(C)(O2)C31.[K+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3509,"CCCC[P:1](CCCC)CCCC.N#CC1=CC=C([CH2:2][Br:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9019,"CCSCCC(N(CC)CC)=[O+:1][H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2477,"COC(=O)C1CCC([C:1](OC)=[O:2])CC(C)C1[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,626,"C[O-:1].C[Si:2](C)(C)F|(1, 2)"
train,pmechdb_split_0,0,6493,"CO[C:1](OC)=[O:2].[Cl-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6731,"C1=CC2=C(C=C1)[CH:1]=[CH:2]N2.C[C+:3]=O|((1, 2), 3)"
train,pmechdb_split_0,0,3261,"CC1(CC[C:1](C)=[O:2])C(=O)CCC1=O.O=C(O)C1CCC[NH:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7952,"CCO.CC[N+]1=C(C(C2=CC=C(F)C=C2)(C(C2=CC=CC=C2)[C:1](C(=O)OC)=[C:2](C(C)C)[O-:3])[O:4][H:5])SC(CCO)=C1C.OCC[NH+](CCO)CCO.[Br-]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,7198,"C1=CC=[N+:1]([H:2])C=C1.CC([NH2+]O)(C1=CN=CC=C1)[O-:3].[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1532,"C[P+:1](Cl)(Cl)[Mg][Cl].[Cl][Mg:2][CH3:3]|((2, 3), 1)"
train,pmechdb_split_0,0,7556,"CC1(C)CCCC1[OH:1].O=P(O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2331,"CCCCCC(CCC)[O:1][H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,3600,"CN(C)C(Cl)[C:1]1([H:2])[CH:3]=[C:4]2CCCC[C:5]2=[N+:6]1C.O=P(Cl)(Cl)[O-:7]|(7, 2);((2, 1), 3);((3, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,5440,"Br[P+:1](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C1CCC(=O)N1.O=CC1=CC=C(C[O-:2])O1|(2, 1)"
train,pmechdb_split_0,0,7442,"C[C+:1]1C=CO[C:2]1([N+](=O)[O-])[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,1389,"CC1(C)CCCC2=C(C(=N)[OH+:1][H:2])C=CC=C21.O=P(O)(O)OP(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2119,"C[S+:1](O)[OH:2]|(2, 1)"
train,pmechdb_split_0,0,5045,"CCC(N(C)C)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5228,"CC(=O)C1=C2C=C[CH:1]=[CH:2]C2=CC=C1.C[CH+:3]C|((1, 2), 3)"
train,pmechdb_split_0,0,3096,"C=CCN(C)C1([O:1][H:2])CCCCO1.C=CC[NH:3]C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3650,"CC1([O-:1])CCCC(=O)C1.[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8469,"CO[C:1]([CH-:2]C)=[O:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,939,"C1=CC=CC=C1.C1CC[C:1](=[N+:2]2CCOCC2)[CH:3]([H:4])C1.C1COCCN1.[OH-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,6381,"CCCCC(OC)=[O+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4766,"FC(F)(F)C1=CO[CH:1]=[CH:2]1.[Br:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8389,"CC[O+:1](C(C)(C)O)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
